US04036979
In the manner described in Example 6, O-benzyl hydroxyamine hydrochloride and 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate are allowed to react to afford 1-(benzyloxy)-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, which is recrystallized from 95% ethyl alcohol-methyl isobutyl ketone. The product melts at 96.5° C. to 99° C.

reactant | O-benzyl hydroxyamine hydrochloride | Cl.C(C1=CC=CC=C1)ON
reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
product | 1-(benzyloxy)-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | C(C1=CC=CC=C1)ONC(=O)NC1CCCC=2SC=CC21 | C16H18N2O2S
